US07777047B2
8-(benzylthio)-8-(nitromethyl)-1,4-dioxaspiro[4.5]decane
A mixture of 1,4-dioxaspiro[4.5]decan-8-one (6.00 g), benzylmercaptan (5.00 mL), nitromethane (20 mL), ethylenediamine (2.83 mL) and acetonitrile (25 mL) was heated under reflux for 3 hr. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography to give the title compound (8.96 g, yield 72%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (2:3, volume ratio). melting point 121-122° C.

reactant | 1,4-dioxaspiro[4.5]decan-8-one | 6.00 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | benzylmercaptan | 5.00 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | nitromethane | 20 mL | [N+](=O)([O-])C | CH3NO2
reactant | ethylenediamine | 2.83 mL | C(CN)N | C2H8N2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 8-(benzylthio)-8-(nitromethyl)-1,4-dioxaspiro[4.5]decane | 8.96 g, yield 72% | C(C1=CC=CC=C1)SC1(CCC2(OCCO2)CC1)C[N+](=O)[O-] | C16H21NO4S
